US05145483
Preparation of 5-acetamido-2-(N-benzyloxycarbonylamino)phenol
0.6 mole (57 ml) of acetic anhydride is added dropwise to a solution of 0.6 mole (172 g) of 5-amino-2-(benzyloxycarbonylamino)phenol in 465 ml of dioxane heated to 70° C. After the reaction medium is cooled, the expected product precipitates. When recrystallized in 96° ethanol, it melts at 205° C.

reactant | acetic anhydride | 0.6 mole, 57 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-amino-2-(benzyloxycarbonylamino)phenol | 0.6 mole, 172 g | NC=1C=CC(=C(C1)O)NC(=O)OCC1=CC=CC=C1 | C14H14N2O3
solvent | dioxane | 465 ml | O1CCOCC1 | C4H8O2
product | 5-acetamido-2-(N-benzyloxycarbonylamino)phenol | C(C)(=O)NC=1C=CC(=C(C1)O)NC(=O)OCC1=CC=CC=C1 | C16H16N2O4
